US05108486
Following procedures similar to those employed in Step A of Example 8, the reaction of 1.9 g (0.0082 mole) of 3,5-dichloro-4-diethylaminoaniline with 1.88 g (0.0163 mole) of thiophosgene and 5.0 g (0.036 mole) of potassium carbonate in 20 ml of water and 100 ml of chloroform yielded 2.2 g of 3,5-dichloro-4-diethylaminophenyl isothiocyanate as an oil. The ir spectrum was consistent with the proposed structure.

reactant | 3,5-dichloro-4-diethylaminoaniline | 0.0082 mole, 1.9 g | ClC=1C=C(N)C=C(C1N(CC)CC)Cl | C10H14Cl2N2
reactant | thiophosgene | 0.0163 mole, 1.88 g | C(=S)(Cl)Cl | CCl2S
reactant | potassium carbonate | 0.036 mole, 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 20 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-dichloro-4-diethylaminophenyl isothiocyanate | 2.2 g | ClC=1C=C(C=C(C1N(CC)CC)Cl)N=C=S | C11H12Cl2N2S
